US06982348B2
To a solution of ethyl 3-(2-fluorophenyl)-3-oxopropionate (20 g, 95 mmol) in 1,2-dimethoxyethane (100 ml) was added sodium hydride (60% in oil, 3.80 g, 95 mmol) under ice-cooling and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 4-trifluoromethylbenzyl bromide (22.7 g, 95 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was stirred at room temperature for 4 hrs. The reaction solution was poured into water (300 ml) and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1-toluene) to give ethyl 3-(2-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (25.7 g, 73%) as a colorless oil.

reactant | ethyl 3-(2-fluorophenyl)-3-oxopropionate | 95 mmol, 20 g | FC1=C(C=CC=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | sodium hydride | 95 mmol, 3.80 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 95 mmol, 22.7 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | water | 300 ml | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(2-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 25.7 g, 73% | FC1=C(C=CC=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H16F4O3
